US06846933B1
2-Methyl-2-phenyl-3-acetyl-5-(4-pyridyl)-1,3,4-oxadiazoline
The title compound was prepared from the isonicotinoylhydrazone of acetophenone and acetic anhydride, using the General Structural Outline for Oxadiazoline Synthesis in 75% yield, mp 79-81° C.; IR ν □1667, 1628, 1597, 1551, 1329, 1311, 1258, 1216, 1199, 1157, 1084, 1062, 1028, 989, 956, 892, 830, 767, 722□cm−1; 1H NMR (300 Mhz) δ □8.7 (2H, d, J=6 cps), 7.7 (2H, d, J=6 cps), 7.5-7.3 (5H, m), 2.3 (3H, s), 2.2 (3H, s); 13C NMR δ 166, 153, 151, 138, 132, 129, 127, 125, 121, 102, 22.5, 22.7.

reactant | isonicotinoylhydrazone of acetophenone | C/C(=N\NC(=O)C=1C=CN=CC1)/C=2C=CC=CC2 | C14H13N3O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | Oxadiazoline | C1NN=CO1 | C2H4N2O
product | 2-Methyl-2-phenyl-3-acetyl-5-(4-pyridyl)-1,3,4-oxadiazoline | 75% yield | CC1(OC(=NN1C(C)=O)C1=CC=NC=C1)C1=CC=CC=C1 | C16H15N3O2
